US07056917B2
(E) N8-(4-Cyclobutyl-1,3-thiazol-2-yl)-2-(3-hydroxypiperidino)-4-oxo-4H-pyrido-[1,2-a]pyrimidine-8-carboxamide
N8-(4-Cyclobutyl-1,3-thiazol-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrido[1,2-a]-pyrimidine-8-carboxamide (100 mg, 0.29 mmol) was added with acetonitrile (2 ml) and dimethylformamide (1 ml), cooled to −10° C. with ice, then added with diphenyl chlorophosphate (0.2 ml, 0.96 mmol), and further added dropwise with diisopropylethylamine (0.3 ml, 1.74 mmol). The reaction solution was stirred at −10° C. for 30 minutes, then added with 3-hydroxypiperidine (90 mg, 0.89 mmol), warmed to room temperature, and then further warmed to 80° C. As the reaction was not completed, the reaction solution was further added with 3-hydroxypiperidine (60 mg), stirred for 1 hour, and further added with 3-hydroxypiperidine (70 mg). After the disappear of the starting material was observed, the reaction was stopped with saturated aqueous sodium hydrogencarbonate, and the reaction solution was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by thin layer silica gel chromatography (chloroform:methanol=15:1) to obtain 85.2 mg (69%) of the title compound as yellow crystals.

reactant | N8-(4-Cyclobutyl-1,3-thiazol-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrido[1,2-a]-pyrimidine-8-carboxamide | 0.29 mmol, 100 mg | C1(CCC1)C=1N=C(SC1)NC(=O)C1=CC=2N(C(CC(N2)=O)=O)C=C1 | C16H14N4O3S
reactant | diphenyl chlorophosphate | 0.96 mmol, 0.2 ml | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | diisopropylethylamine | 1.74 mmol, 0.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-hydroxypiperidine | 0.89 mmol, 90 mg | OC1CNCCC1 | C5H11NO
reactant | 3-hydroxypiperidine | 60 mg | OC1CNCCC1 | C5H11NO
reactant | 3-hydroxypiperidine | 70 mg | OC1CNCCC1 | C5H11NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N8-(4-Cyclobutyl-1,3-thiazol-2-yl)-2-(3-hydroxypiperidino)-4-oxo-4H-pyrido-[1,2-a]pyrimidine-8-carboxamide | 85.2 mg, 69% | C1(CCC1)C=1N=C(SC1)NC(=O)C1=CC=2N(C(C=C(N2)N2CC(CCC2)O)=O)C=C1 | C21H23N5O3S
